US04227000
A mixture of ethyl 3-(3-methoxyphenyl)propionate (100 g) and ethyl formate (37 g) was added dropwise to a mixture of sodium wire (11 g) in stirred ether (500 ml) at 0°. The mixture was stirred at room temperature for 16 hours and evaporated to dryness. The residue was dissolved in water and extracted with ether, the extracted aqueous phase was adjusted to pH 4 with hydrochloric acid and was extracted with ether and the ether extract was evaporated to dryness to give ethyl 2-formyl-3-(3-methoxyphenyl)propionate (46.05 g).

reactant | ethyl 3-(3-methoxyphenyl)propionate | 100 g | COC=1C=C(C=CC1)CCC(=O)OCC | C12H16O3
reactant | ethyl formate | 37 g | C(=O)OCC | C3H6O2
reactant | sodium | 11 g | [Na] | Na
solvent | ether | 500 ml | CCOCC | C4H10O
product | ethyl 2-formyl-3-(3-methoxyphenyl)propionate | 46.05 g | C(=O)C(C(=O)OCC)CC1=CC(=CC=C1)OC | C13H16O4
